US05502237
4.600 g (0.015 mole) of 1-hydroxy-N(2-nitroxyethyl)-2-naphthalene acetamide dissolved in a mixture of 4 ml of water, 1.436 g (0.021 mole) of 85% potassium hydroxide and 38 ml of ethanol were added slowly over a solution of 35.490 g (30 ml, 0.383 mole) of epichlorohydrin in 17 ml of ethanol, with temperature control. The mixture was stirred at room temperature for 22 hours. 150 ml of water were added and the mixture was concentrated at reduced pressure at 40° C. The mixture was extracted three times with 70 ml of ethyl acetate and dried over sodium sulphate. It was filtered and the solvent was removed at low pressure. The oil obtained was purified by column chromatography in silica gel (0.060-0.200 mm). 2.354 g (0.006 mole) of 1-(2,3-epoxy)propoxy-N-(2- nitroxyethyl)-2-naphthalene acetamide were obtained on eluting with a mixture of chloroform/methanol: 9/1 and removing the solvent at reduced pressure (m.p. 67°-71° C., Rf =0.41 TLC, silica gel Merck HPTLC-5629, chloroform 80/acetone 20). They were mixed with 8.88 g (12.8 ml, 0.150 mole) of isopropylamine in 80 ml of methanol and heated under reflux for 1 hour under anhydrous conditions. The product was concentrated at reduced pressure at 40° C. The oil obtained was redissolved in 80 ml of ethyl acetate and was extracted three times with 35 ml of 1N HCl. The acid extracts were pooled and were alkalized with the addition of powdered sodium carbonate and a solution of 1N NaOH to pH=12. The solution was treated twice with 50 ml of ethyl acetate. The organic extracts were pooled and washed twice with 25 ml of sodium chloride saturated water. It was dried over anhydrous sodium sulphate, was filtered and was concentrated at reduced pressure to give a residue which was purified by column chromatography on silica gel (0.060-0.200 mm). On eluting with a mixture of chloroform 90/methanol 20 and removing the solvent at reduced pressure until a constant weight, 1.113 g (17%) of an oil which solidified in amorphous form were obtained.

reactant | 1-hydroxy-N(2-nitroxyethyl)-2-naphthalene acetamide | 0.015 mole, 4.600 g | OC1=C(C=CC2=CC=CC=C12)CC(=O)NCCO[N+](=O)[O-] | C14H14N2O5
reactant | potassium hydroxide | 0.021 mole, 1.436 g | [OH-].[K+]
reactant | epichlorohydrin | 0.383 mole, 30 ml, 35.490 g | C(Cl)C1CO1 | C3H5ClO
solvent | water | 4 ml | O | H2O
solvent | ethanol | 17 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
solvent | ethanol | 38 ml | C(C)O | C2H6O
product | 1-(2,3-epoxy)propoxy-N-(2- nitroxyethyl)-2-naphthalene acetamide | 0.006 mole, 2.354 g | O1C(COC2=C(C=CC3=CC=CC=C23)CC(=O)NCCO[N+](=O)[O-])C1 | C17H18N2O6
